US07101892B2
A solution of n-butyllithium (1.5M, 0.13 ml, 0.2 mmol) in hexanes was added to a stirred solution of 1-(4-benzenesulfonyl-3,3-dimethyl-butyl)-4-trifluoromethylpiperidine (40 mg, 0.11 mmol) in tetrahydrofuran (2 ml) at −78° C. The mixture was stirred for 30 min. and methyl iodide (0.34 ml) was added. After 1 hour, the reaction mixture was quenched with one drop of water and concentrated in vacuo. The residue was purified on silica gel (dichloromethane:methanol) to give 1-(4-benzenesulfonyl-3,3-dimethyl-pentyl)-4-trifluoromethyl-piperidine. The title product was prepared by treatment of the amine with 1M ethereal HCl.

reactant | n-butyllithium | 0.2 mmol, 1.5M, 0.13 ml | C(CCC)[Li]
reactant | 1-(4-benzenesulfonyl-3,3-dimethyl-butyl)-4-trifluoromethylpiperidine | 0.11 mmol, 40 mg | C1(=CC=CC=C1)S(=O)(=O)CC(CCN1CCC(CC1)C(F)(F)F)(C)C | C18H26F3NO2S
reactant | methyl iodide | 0.34 ml | CI | CH3I
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 1-(4-benzenesulfonyl-3,3-dimethyl-pentyl)-4-trifluoromethyl-piperidine | C1(=CC=CC=C1)S(=O)(=O)C(C(CCN1CCC(CC1)C(F)(F)F)(C)C)C | C19H28F3NO2S
